US07915347B2
Preparation of a poly(isobornyl methacrylate/isobutyl methacrylate/isobutyl acrylate) polymer
90 g of isobutyl acrylate, 90 g of isododecane and 1.2 g of 2,5-bis(2-ethylhexanoylperoxy)-2,5-dimethylhexane were then introduced into the above mixture, still at 90° C. and over 30 minutes.

reactant | isobutyl acrylate | 90 g | C(C=C)(=O)OCC(C)C | C7H12O2
reactant | isododecane | 90 g | CCCCCCCCCC(C)C | C12H26
reactant | 2,5-bis(2-ethylhexanoylperoxy)-2,5-dimethylhexane | 1.2 g | C(C)C(C(=O)OOC(C)(CCC(C)(C)OOC(C(CCCC)CC)=O)C)CCCC | C24H46O6
product | isobornyl methacrylate isobutyl methacrylate isobutyl acrylate | CC(=C)C(=O)OC1C[C@H]2CC[C@@]1(C2(C)C)C.C(C(=C)C)(=O)OCC(C)C.C(C=C)(=O)OCC(C)C | InChI=1S/C14H22O2.C8H14O2.C7H12O2/c1-9(2)12(15)16-11-8-10-6-7-14(11,5)13(10,3)4;1-6(2)5-10-8(9)7(3)4;1-4-7(8)9-5-6(2)3/h10-11H,1,6-8H2,2-5H3;6H,3,5H2,1-2,4H3;4,6H,1,5H2,2-3H3/t10-,11?,14+;;/m1../s1
